US09212182B2
A flask was charged with 6-(benzylthio)-1-(4-bromo-5-chloro-2-methoxyphenyl)quinolin-2(1H)-one (46.34 g, 95 mmol), acetonitrile (298 ml), acetic acid (11.34 ml), and water (7.46 ml). The solution was cooled to 0° C. To the solution was added 1,3-dichloro-5,5-dimethylimidazolidine-2,4-dione (18.75 g, 95 mmol) as a solid in a single portion and stirred for 10 min. An additional 0.3 equiv 1,3-dichloro-5,5-dimethylimidazolidine-2,4-dione (5.63 g, 28.6 mmol), then 0.2 eq. 1,3-dichloro-5,5-dimethylimidazolidine-2,4-dione (3.75 g, 19.04 mmol) was added until complete conversion to sulfonyl chloride 6-(benzylsulfinyl)-1-(4-bromo-5-chloro-2-methoxyphenyl)quinolin-2(1H)-one. At this time 2,3,4,5,6-pentafluorophenol (21.03 g, 114 mmol) was added as a warmed liquid (gooey solid at rt), using 10 mL of acetonitrile to aid in transfer from pre-tared vial containing the 2,3,4,5,6-pentafluorophenol. Then, TEA (53.1 ml, 381 mmol) was added from an addition funnel. During the addition, a white fume was produced. The solution was maintained at 0° C. for 30 min and then allowed to warm to rt and stir for 20 min. The reaction mixture was partitioned between 1:1 biine:water (500 mL) and EtOAc (700 mL) The layers were separated and the aqueous layer was extracted with EtOAc (2×400 mL). Both layers had suspended white solid. The combined organic layers were filtered to remove suspended solid and concentrated to give a brown sludge. The solid that was collected was clean product perfluorophenyl 1-(4-bromo-5-chloro-2-methoxyphenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonate which was set aside. The remaining brown sludge was taken up in IPA (500 mL) and a tan solid precipitated, which was collected by vacuum filtration (rinsing with 200 mL IPA) to give an additional 19.961 g perfluorophenyl 1-(4-bromo-5-chloro-2-methoxyphenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonate. The aqueous layer still had tan suspended solid, which was extracted with DCM (2×500 mL). The combined organic layers were concentrated to give 4.542 g perfluorophenyl 1-(4-bromo-5-chloro-2-methoxyphenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonate as a tan solid. The three lots were combined to give 36.21 g, 59.3 mmol (62.3% yield) of perfluorophenyl 1-(4-bromo-5-chloro-2-methoxyphenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonate. 1H NMR (400 MHz, DMSO-d6) δ 8.60 (d, J=2.35 Hz, 1H), 8.19-8.31 (m, 1H), 7.96 (dd, J=2.30, 9.05 Hz, 1H), 7.82-7.89 (m, 1H), 7.74-7.80 (m, 1H), 6.92-6.98 (m, 1H), 6.84-6.91 (m, 1H), 3.71-3.80 (s, 3H). m/z (ESI) 609.9 (M+H)+.

reactant | 6-(benzylthio)-1-(4-bromo-5-chloro-2-methoxyphenyl)quinolin-2(1H)-one | 95 mmol, 46.34 g | C(C1=CC=CC=C1)SC=1C=C2C=CC(N(C2=CC1)C1=C(C=C(C(=C1)Cl)Br)OC)=O | C23H17BrClNO2S
reactant | 1,3-dichloro-5,5-dimethylimidazolidine-2,4-dione | 95 mmol, 18.75 g | ClN1C(N(C(C1(C)C)=O)Cl)=O | C5H6Cl2N2O2
reactant | 1,3-dichloro-5,5-dimethylimidazolidine-2,4-dione | 28.6 mmol, 5.63 g, 0.3 equiv | ClN1C(N(C(C1(C)C)=O)Cl)=O | C5H6Cl2N2O2
reactant | 1,3-dichloro-5,5-dimethylimidazolidine-2,4-dione | 19.04 mmol, 3.75 g | ClN1C(N(C(C1(C)C)=O)Cl)=O | C5H6Cl2N2O2
reactant | sulfonyl chloride 6-(benzylsulfinyl)-1-(4-bromo-5-chloro-2-methoxyphenyl)quinolin-2(1H)-one | C(C1=CC=CC=C1)S(=O)C=1C=C2C=CC(N(C2=CC1)C1=C(C=C(C(=C1)Cl)Br)OC)=O.S(=O)(=O)(Cl)Cl
reactant | 2,3,4,5,6-pentafluorophenol | 114 mmol, 21.03 g | FC1=C(C(=C(C(=C1F)F)F)F)O | C6HF5O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | water | 7.46 ml | O | H2O
solvent | acetic acid | 11.34 ml | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 298 ml | C(C)#N | C2H3N
product | perfluorophenyl 1-(4-bromo-5-chloro-2-methoxyphenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonate | 19.961 g | BrC1=CC(=C(C=C1Cl)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)=O)OC | C22H10BrClF5NO5S
